US07714126B2
With a procedure similar to example 43 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[(2-hydroxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 2-[(5-amino-pyridin-2-yl)-methyl-amino]-ethanol. LCMS calcd for C19H17F3N4O3 (m/e) 406, obsd 407 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 2-[(5-amino-pyridin-2-yl)-methyl-amino]-ethanol | NC=1C=CC(=NC1)N(CCO)C | C8H13N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[(2-hydroxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | OCCN(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C | C19H17F3N4O3
